US06503933B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-α,α,α-trifluoro-o-toluamide (Compound 1)
A solution of (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine (0.35 g) in dry ether (2 ml) was added to a solution of 2-trifluoromethylbenzoyl chloride (0.39 g) and triethylamine (0.27 ml) in dry ether (5 ml) and the mixture stirred overnight. Water (20 ml) and ethyl acetate (10 ml) were added and the organic phase was separated and washed with aqueous sodium hydrogen carbonate, dried and evaporated under reduced pressure. The residue was purified by silica gel chromatography to give the title product, m.p. 127-30° C.

reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine | 0.35 g | ClC=1C(=NC=C(C1)C(F)(F)F)CN | C7H6ClF3N2
reactant | 2-trifluoromethylbenzoyl chloride | 0.39 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 20 ml | O | H2O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-α,α,α-trifluoro-o-toluamide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(=O)C=1C(=CC=CC1)C(F)(F)F | C15H9ClF6N2O
